US04130717
Preparation of 3-(4-chlorophenyl)-5-methyl-isoindole-1-carboxylic acid ethyl ester
The starting material, {[2-acetoxy-5-methyl-α-(4-chlorophenyl)benzyliden]-amino}malonic acid diethyl ester (colorless crystals from heptane, melting point 82°-84° C.), can be prepared as described in Example 1 from 4'-chloro-2-hydroxy-5-methyl-benzophenone via 4'-chloro-2-hydroxy-5-methyl-benzophenone imine (orange crystals from ethanol, melting point 134°-136° C.).

reactant | {[2-acetoxy-5-methyl-α-(4-chlorophenyl)benzyliden]-amino}malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)N=C(C1=C(C=CC(=C1)C)OC(C)=O)C1=CC=C(C=C1)Cl)=O | C23H24ClNO6
reactant | 4'-chloro-2-hydroxy-5-methyl-benzophenone | ClC1=CC=C(C=C1)C(C1=C(C=CC(=C1)C)O)=O | C14H11ClO2
reactant | 4'-chloro-2-hydroxy-5-methyl-benzophenone imine | ClC1=CC=C(C=C1)C(C1=C(C=CC(=C1)C)O)=N | C14H12ClNO
product | 3-(4-chlorophenyl)-5-methyl-isoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=C2C=C(C=CC12)C)C1=CC=C(C=C1)Cl | C18H16ClNO2
